US05075330
1-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]ethanone oxime
1-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]ethanone (0.8 g, 2.7 mmol) and hydroxylamine hydrochloride (0.8 g, 10.8 mmol) are dissolved in 15 ml of pyridine under argon at room temperature for 12 hours. The pyridine is evaporated, and the residue partitioned between methylene chloride and water. The organic layer is washed twice with 100 ml of water and dried over magnesium sulfate. The solution is concentrated on the rotovap and passed through a silica gel pad which is then eluted with methylene chloride. The solvent is evaporated and 1-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]ethanone oxime is recrystallized from H2O/MeOH. Yield 0.2 g (24%); mp 116°-118° C.

reactant | 1-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]ethanone | 2.7 mmol, 0.8 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(C)=O | C15H13Cl2NO
reactant | hydroxylamine hydrochloride | 10.8 mmol, 0.8 g | Cl.NO
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]ethanone oxime | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(C)=NO | C15H14Cl2N2O
